US06593335B1
5-bromomethylbenzo-2.1.3-thiadiazole
5-Methylbenzo-2,1,3-thiadiazole (5.0 g, 33 mmol), N-bromosuccinimide (5.92g, 33.3 mmol) and catalytic 2,2′-azobisisobutyronitrile were heated at reflux for 16 hours in chloroform (75 mL). The reaction mixture was cooled and the resulting precipitate was filtered off and discarded. The filtrate was′evaporated and recrystallized from ethanol to provide 4.8 g of the title compound.

reactant | 5-Methylbenzo-2,1,3-thiadiazole | 33 mmol, 5.0 g | CC1=CC=2C(=NSN2)C=C1 | C7H6N2S
reactant | N-bromosuccinimide | 33.3 mmol, 5.92g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | chloroform | 75 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-bromomethylbenzo-2.1.3-thiadiazole | 4.8 g | BrCC1=CC=2C(=NSN2)C=C1 | C7H5BrN2S
